### ISSUE TITLE
Autocomplete suggestions after dot (".") not appearing in some contexts

### ISSUE THREAD

**Issue by LacombeJ** [leanprover/lean4#5172]
### Description

When typing in "." after a type or namespace in match and some tactics, the autocomplete suggestions are not appearing.

### Context

I have noticed it in:
- Match expressions (in the terms right after the "|" guards)
- Tactic mode (in "apply" expressions or in "cases" guards)

#### Match Expression
1. Start with empty file (.lean) file in a lean/lake project
2. Add the following code:
```lean
inductive Direction where
  | up
  | right
  | down
  | left
deriving Repr

def angle (d: Direction) :=
  match d with
  | Direction.up => 90
  | Direction.right => 0
  | Direction.down => 270
  | Direction.left => 180
```

3. Delete the ".up" and try re-adding a period "." after Direction

**Expected behavior:**
I expect to see the same dropdown that appears after typing the dot in `#eval Direction.`

**Actual behavior:**
No suggestions dropdown, red squiggly error line appears under text and hovering shows "invalid pattern Lean 4"

### Versions

**VS Code Extension:** v0.0.176
**Lean:** version 4.10.0, x86_64-w64-windows-gnu, commit c375e19f6b65, Release
**OS:** Windows 10

### Additional Information

Similar issue found in all of the "." operators in this example
```lean
example : p ∨ (q ∧ r) → (p ∨ q) ∧ (p ∨ r) := by
  intro h
  cases h with
  | inl hp => apply And.intro (Or.intro_left q hp) (Or.intro_left r hp)
  | inr hqr => apply And.intro (Or.intro_right p hqr.left) (Or.intro_right p hqr.right)
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/vscode-lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
